US07105563B2
A solution of chlorosulfonylisocyanate in acetonitrile (25 mL) was added dropwise to a solution of 2-acetylpyrrole (10.9 g, 100 mmol) in acetonitrile (25 mL) at 0° C. The reaction mixture turned from yellow to black and was allowed to stir at ambient temperature for 2.5 h. The reaction mixture was cooled to 0° C. and DMF (10 mL) was added. The resulting reaction mixture was then heated to 50° C. for 10 minutes and then poured onto ice to afford a dark colored product. The product was dissolved in ethyl acetate and treated with activated charcoal and filtered. The ethyl acetate was evaporated to afford a tan-colored product. Recrystallization from ethyl acetate afforded 4-cyano-2-acetylpyrrole (4.5 g) as a tan solid.

reactant | chlorosulfonylisocyanate | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-acetylpyrrole | 100 mmol, 10.9 g | C(C)(=O)C=1NC=CC1 | C6H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | charcoal | C | CH4
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-cyano-2-acetylpyrrole | 4.5 g | C(#N)C=1C=C(NC1)C(C)=O | C7H6N2O
